US07858630B2
Step 3: (3-Benzyloxymethyl-cyclobutyl)-acetic acid methyl ester
(3-Benzyloxymethyl-cyclobutylidene)-acetic acid methyl ester (5.4 g, 21.9 mmol) were dissolved in 80 ml methanol and cooled to 0-5° C. NiCl2 (2.53 g, 19.5 mmol) and NaBH4 (4.14 g, 109.6 mmol) were added slowly and the reaction mixture stirred for 1 hour at 0-5° C. The reaction mixture was quenched with 1N HCl and extracted two times with dichloromethane. The organic extract was washed with brine, dried with sodium sulfate, filtered and evaporated. The crude product (3.0 g, 55%) was obtained as a colourless liquid and used without any further purification for the next step. MS: m/e=249.1 (M+H+).

reactant | (3-Benzyloxymethyl-cyclobutylidene)-acetic acid methyl ester | 21.9 mmol, 5.4 g | COC(C=C1CC(C1)COCC1=CC=CC=C1)=O | C15H18O3
reactant | NaBH4 | 109.6 mmol, 4.14 g | [BH4-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
catalyst | NiCl2 | 19.5 mmol, 2.53 g | Cl[Ni]Cl
product | (3-Benzyloxymethyl-cyclobutyl)-acetic acid methyl ester | 3.0 g, 55% | COC(CC1CC(C1)COCC1=CC=CC=C1)=O | C15H20O3
